US03932411
A solution of 8.1 g (0.05 mol) 5-hydroxy-1-oxotetraline and 3.09 g (0.055 mol) potassium hydroxide in 260 ml isopropanol was boiled under reflux for fifteen minutes. Thereafter, a solution of 13.9 g (0.055 mol) 1-(3-chloropropyl)-4-(4-methylphenyl)-piperazine in 50 ml isopropanol was added thereto and the reaction mixture further heated under reflux for six hours. During this time, a weak current of nitrogen was passed through the apparatus. After cooling and filtering off with suction the precipitated potassium chloride, 15 ml of approximately 7N methanolic hydrochloric acid was stirred into the filtrate. Colorless crystals separated out upon cooling with ice. There were obtained 19.40 g (93.5% of theory) 5-{3-[4-(4-methylphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one hydrochloride after filtering off with suction. This compound melts at 197°-202°C. After recrystallization from one liter of water, there was obtained the analytically pure substance; yield 13.66 g (66.0% of theory); m.p. 204°-206°C.

reactant | 5-hydroxy-1-oxotetraline | 0.05 mol, 8.1 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | potassium hydroxide | 0.055 mol, 3.09 g | [OH-].[K+]
reactant | 1-(3-chloropropyl)-4-(4-methylphenyl)-piperazine | 0.055 mol, 13.9 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)C | C14H21ClN2
solvent | isopropanol | 260 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 5-{3-[4-(4-methylphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one hydrochloride | 19.40 g, 93.5% | Cl.CC1=CC=C(C=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | InChI=1S/C24H30N2O2.ClH/c1-19-9-11-20(12-10-19)26-16-14-25(15-17-26)13-4-18-28-24-8-3-5-21-22(24)6-2-7-23(21)27;/h3,5,8-12H,2,4,6-7,13-18H2,1H3;1H
